US08067448B2
N′-((2R,3S)-2-(3-Chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-3-chloro-4-hydroxybenzohydrazide
(2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid (1.02 g, 3.8 mmol) and 3-chloro-4-hydroxybenzohydrazide (711 mg, 3.8 mmol) were coupled in an analogous fashion as the procedure used for the preparation of intermediate 3b. The crude product was purified by boiling in chloroform (50 mL) followed by cooling to 0° C. and filtration to yield product as a white solid (1.36 g, 82%). 1H NMR (400 MHz, acetone-d6, δ in ppm) 7.93 (d, J=2.2 Hz, 1H), 7.75 (dd, J=2.2, 8.4 Hz, 1H), 7.52 (d, J=8.8 Hz, 1H), 7.08 (d, J=8.6 Hz, 1H), 6.67 (m, 1H), 5.55 (d, J=6.8 Hz, 1H), 4.38 (m, 1H), 4.10 (dd, J=3.1, 7.0 Hz, 1H), 2.36 (s, 3H), 1.34 (d, J=6.5 Hz, 3H).

reactant | (2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid | 3.8 mmol, 1.02 g | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)O)[C@H](C)O)C | C12H13ClN2O3
reactant | 3-chloro-4-hydroxybenzohydrazide | 3.8 mmol, 711 mg | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
product | N′-((2R,3S)-2-(3-Chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-3-chloro-4-hydroxybenzohydrazide | 1.36 g, 82% | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC(=C(C=C1)O)Cl)=O)[C@H](C)O)C | C19H18Cl2N4O4
